US05286721
To a stirred solution of 1-(N-allyloxycarbonyl-N-methylamino)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-3-(t-butyldimethylsilyloxy)butane (123 g) in ethyl acetate (1.2 l) was added 6N-aqueous hydrochloric acid (240 ml) at ambient temperature. After stirring at the same temperature for 2.5 hours, to the mixture was added water (1 l) and the organic layer was separated. The organic layer was washed successively with 1N-aqueous sodium hydroxide (1 l), saturated aqueous ammonium chloride (500 ml), and brine (500 ml). After the solution was dried over magnesium sulfate, removal of the solvents gave a residue. The residue was chromatographed on silica gel (1 l) eluting with a mixture of n-hexane and ethyl acetate (95:5-40:60, V/V) to give 1-(N-allyloxycarbonyl-N-methylamino)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-3-hydroxybutan-3-ol (83.18 g).

reactant | 1-(N-allyloxycarbonyl-N-methylamino)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-3-(t-butyldimethylsilyloxy)butane | 123 g | C(C=C)OC(=O)N(C)CC(C(C)O[Si](C)(C)C(C)(C)C)CN(C)C(=O)OCC=C | C21H40N2O5Si
reactant | hydrochloric acid | 240 ml | Cl | ClH
reactant | water | 1 l | O | H2O
solvent | ethyl acetate | 1.2 l | C(C)(=O)OCC | C4H8O2
product | 1-(N-allyloxycarbonyl-N-methylamino)-2-(N-allyloxycarbonyl-N-methylaminomethyl)-3-hydroxybutan-3-ol | 83.18 g | C(C=C)OC(=O)N(C)CC(C(C)(O)O)CN(C)C(=O)OCC=C | C15H26N2O6
